US04098812
Methyl-4-chloro-α-methoxy-o-toluate
Ethyl α-Bromo-4-chloro-o-toluate (26.4 g.) is added to a solution (10°) of sodium methoxide (5.4 g.) in 110 ml. of methanol. When the addition is complete, the mixture is refluxed for two hours, then cooled and concentrated in vacuo. The oily residue is partioned between ether-water. The ether layer is separated and dried. Removal of the drying agent and concentration of the filtrate in vacuo leaves 17.3 g. of a white solid. A sample of the product recrystallized from methanol had mp 44°-45°.

reactant | Ethyl α-Bromo-4-chloro-o-toluate | 26.4 g | BrCC=1C(=CC(=CC1)Cl)C(=O)OCC | C10H10BrClO2
reactant | sodium methoxide | 5.4 g | C[O-].[Na+]
solvent | methanol | CO | CH4O
product | Methyl-4-chloro-α-methoxy-o-toluate | COC(=O)C=1C(=CC=C(C1)Cl)COC | C10H11ClO3
